US04048432
To a well-stirred solution of 15.0 g. of 9-[5-O-(tert-butyldimethylsilyl)-β-D-arabinofuranosyl]adenine in 100 ml. of dry pyridine is added 11.1 ml. of propionic anhydride. The solution is stirred at room temperature for 16 hours, treated with 100 g. of crushed ice and stirred one additional hour. The resulting solution is evaporated at reduced pressure at 45° C. and the residue is dissolved in 250 ml. of chloroform. The chloroform solution is washed in turn with aqueous sodium bicarbonate and with water, and is then dried and evaporated to give the product, 9-[2,3-di-O-propionyl-5-O-(tert-butyldimethylsilyl)-β-D- arabinofuranosyl]adenine, suitable for use in the following procedure without further purification.

reactant | 9-[5-O-(tert-butyldimethylsilyl)-β-D-arabinofuranosyl]adenine | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C2=NC=NC(=C2N=C1)N)O)O | C16H27N5O4Si
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-[2,3-di-O-propionyl-5-O-(tert-butyldimethylsilyl)-β-D- arabinofuranosyl]adenine | C(CC)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(CC)=O)CO[Si](C)(C)C(C)(C)C)N1C2=NC=NC(=C2N=C1)N | C22H35N5O6Si
